US05576321
Preparation of 6-methoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
The title compound was prepared in a fashion similar to that described in Preparation 30 from 6-methoxyindole (2.0 g, 14 mmol) and 4-piperidone hydrochloride hydrate (4.2 g, 27 mmol). The product was isolated as a yellow solid. Yield 2.8 g (90%). mp 190°-193° C. FDMS m/e=228 (M+ of free base).

reactant | 6-methoxyindole | 14 mmol, 2.0 g | COC1=CC=C2C=CNC2=C1 | C9H9NO
reactant | 4-piperidone hydrochloride hydrate | 27 mmol, 4.2 g | O.Cl.N1CCC(CC1)=O
product | 6-methoxy-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | COC1=CC=C2C(=CNC2=C1)C=1CCNCC1 | C14H16N2O
